US08012966B2
A stirred solution of 2-[2-(2-dimethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (267 mg, 1 mmol) in 5 ml of toluene was added dropwise with 2M trimethyl aluminum in toluene (1 ml, 2 mmol) under an argon atmosphere. The mixture was stirred for 1 hour at room temperature and heated to reflux for another 4 hours. The reaction mixture was cooled down to 0° C. in an ice-water bath, added with 1N hydrochloric acid (10 ml) and cold water (10 ml). The mixture was adjusted to pH12 with 10% aqueous sodium hydroxide solution and extracted with dichloromethane (25 ml×5). The combined organic extracts were filtered through a pad of Celite. The filtrate was dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (242 mg, 97%) as a brown oil which was used as such.

reactant | 2-[2-(2-dimethylamino-ethylamino)-ethyl]-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1 mmol, 267 mg | C(C)OC(=O)C1=C(NC=C1C)CCNCCN(C)C | C14H25N3O2
reactant | trimethyl aluminum | 2M | C[Al](C)C
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mmol, 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
product | 5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 242 mg, 97% | CN(CCN1C(C2=C(CC1)NC=C2C)=O)C | C12H19N3O
